US04367234
5-(2-Benzyloxy-1-naphthyl)oxazolidine-2,4-dione
By the procedure of Example 27, except that 2.1 equivalents rather than 3.2 equivalents of triethylamine were employed, ethyl 1-(2-benzyloxy-1-naphthyl)-1-hydroxymethanecarboximidate hydrochloride (4.0 g., 0.011 mole) in 180 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(2-benzyloxy-1-naphthyl)-oxazolidine-2,4-dione (1.61 g., m.p. 197°-199.5° C.).

reactant | triethylamine | 3.2 equivalents | C(C)N(CC)CC | C6H15N
reactant | ethyl 1-(2-benzyloxy-1-naphthyl)-1-hydroxymethanecarboximidate hydrochloride | 0.011 mole, 4.0 g | Cl.C(C1=CC=CC=C1)OC1=C(C2=CC=CC=C2C=C1)C(C(OCC)=N)O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Benzyloxy-1-naphthyl)oxazolidine-2,4-dione | C(C1=CC=CC=C1)OC1=C(C2=CC=CC=C2C=C1)C1C(NC(O1)=O)=O | C20H15NO4
